US05886044
b) Preparation of 2-amino-6-phenylaminocarbonylphenol
To a solution of 2-nitro-6-phenylaminocarbonylphenol (1 g, 4.0 mmol) in methanol(250 mL) was added 10% Pd/C (100 mg). The mixture was flushed with argon, then hydrogen was bubbled through the solution for 10 min. and a hydrogen atmosphere was maintained at balloon pressure overnight. The mixture was filtered through celite and the celite was washed with methanol. The solvent was evaporated and chromatography of the resulting solid on silica gel (5% MeOH/CH2Cl2) gave the desired product(800 mg, 91%). 1H NMR (CD3OD): δ 7.73-7.57 (m, 2H), 7.43-7.27 (m, 3H), 7.25-7.10 (m, 1H), 6.94 (t, 1H), 6.74 (t, 1H).

reactant | 2-nitro-6-phenylaminocarbonylphenol | 4.0 mmol, 1 g | [N+](=O)([O-])C1=C(C(=CC=C1)C(=O)NC1=CC=CC=C1)O | C13H10N2O4
solvent | methanol | 250 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-amino-6-phenylaminocarbonylphenol | 800 mg, 91% | NC1=C(C(=CC=C1)C(=O)NC1=CC=CC=C1)O | C13H12N2O2
